US05461050
A mixture of 4.2 g of 2,2-dimethoxyethanamine, 3.6 g of isothiocyanatomethane and 100 ml of tetrahydrofuran was stirred overnight. The reaction mixture was evaporated, yielding 7.1 g (99%) of N-(2,2-dimethoxyethyl)-N'-methylthiourea as an oily residue (interm. 34);

reactant | 2,2-dimethoxyethanamine | 4.2 g | COC(CN)OC | C4H11NO2
reactant | isothiocyanatomethane | 3.6 g | N(=C=S)C | C2H3NS
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-(2,2-dimethoxyethyl)-N'-methylthiourea | 7.1 g, 99% | COC(CNC(=S)NC)OC | C6H14N2O2S
